US04558155
N-(1-Methylethyl)-2-phenoxyethanamine, Hydrochloride
Following the procedure of Preparation 1, 2-bromoethyl phenyl ether and isopropyl amine were reacted (in refluxing chloroform) overnight and the reaction mixture processed to yield an oil, the free base of the title compound. A portion of the oil was reacted with ethereal hydrogen chloride to form the hydrochloride salt in 68.3% yield, m.p. 152°-154.5° C.

reactant | 2-bromoethyl phenyl ether | C1(=CC=CC=C1)OCCBr | C8H9BrO
reactant | isopropyl amine | C(C)(C)N | C3H9N
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
product | N-(1-Methylethyl)-2-phenoxyethanamine, Hydrochloride | Cl.CC(C)NCCOC1=CC=CC=C1 | InChI=1S/C11H17NO.ClH/c1-10(2)12-8-9-13-11-6-4-3-5-7-11;/h3-7,10,12H,8-9H2,1-2H3;1H
